US08283353B2
4′-{[4-(1,4-dioxaspiro[4.5]dec-8-yl)-5-oxo-7-propyl-4,5-dihydropyrazolo[1,5-a]pyrimidin-6-yl]methyl}-3′-fluorobiphenyl-2-carbonitrile
A solution of N-(1,4-dioxaspiro[4.5]dec-8-yl)-1H-pyrazol-5-amine (2.2 g), 1,8-diazabicyclo[5.4.0]undec-7-ene (0.30 mL) and ethyl 2-[(2′-cyano-3-fluorobiphenyl-4-yl)methyl]-3-oxohexanoate (7.4 g) in diethylaniline (10 mL) was stirred at 180° C. for 2 hr. The mixture was allowed to cool, ethyl acetate and water were added, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated. The residue was purified by silica gel column chromatography to give the title compound as a pale-yellow amorphous solid (4.0 g, 75%).

reactant | N-(1,4-dioxaspiro[4.5]dec-8-yl)-1H-pyrazol-5-amine | 2.2 g | O1CCOC12CCC(CC2)NC2=CC=NN2 | C11H17N3O2
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.30 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | ethyl 2-[(2′-cyano-3-fluorobiphenyl-4-yl)methyl]-3-oxohexanoate | 7.4 g | C(#N)C1=C(C=CC=C1)C1=CC(=C(C=C1)CC(C(=O)OCC)C(CCC)=O)F | C22H22FNO3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | diethylaniline | 10 mL | CCN(CC)C=1C=CC=CC1 | C10H15N
solvent | water | O | H2O
product | 4′-{[4-(1,4-dioxaspiro[4.5]dec-8-yl)-5-oxo-7-propyl-4,5-dihydropyrazolo[1,5-a]pyrimidin-6-yl]methyl}-3′-fluorobiphenyl-2-carbonitrile | 4.0 g, 75% | O1CCOC12CCC(CC2)N2C=1N(C(=C(C2=O)CC2=C(C=C(C=C2)C=2C(=CC=CC2)C#N)F)CCC)N=CC1 | C31H31FN4O3
